US04933355
5-{1-Ethoxycarbonyl-1-[2-(3-p-fluorophenylthioureido)-thiazol-4-yl]methylene}rhodanine-3-acetic acid
Following a procedure similar to that described in Example 1, the desired compound was prepared from 550 mg of ethyl 2-(3-p-fluorophenylthioureido)thiazol-4-ylglyoxylate, 29 mg of rhodanine-3-acetic acid, 150 mg of ammonium chloride, 0.15 ml of 28% v/v aqueous ammonia and 10 ml of ethanol. The resulting product was in the form of yellow acicular crystals having the following physical properties.

reactant | ethyl 2-(3-p-fluorophenylthioureido)thiazol-4-ylglyoxylate | 550 mg | FC1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=S | C14H12FN3O3S2
reactant | rhodanine-3-acetic acid | 29 mg | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 150 mg | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-{1-Ethoxycarbonyl-1-[2-(3-p-fluorophenylthioureido)-thiazol-4-yl]methylene}rhodanine-3-acetic acid | C(C)OC(=O)C(C=1N=C(SC1)NC(=S)NC1=CC=C(C=C1)F)=C1C(N(C(S1)=S)CC(=O)O)=O | C19H15FN4O5S4
